US05360811
trans-3-[3-(1-Dodecynyl)phenyl]propen-1-ol
To a solution of ethyl trans-3-[3-(1-dodecynyl)phenyl]-2-propenoate (10.0 g) and dry tetrahydrofuran (100 ml) at -78° C. was added diisobutylaluminum hydride (1.5M in toluene) (49 ml) slowly. The reaction mixture was stirred for 20 mins at -78° C., and 25% sodium hydroxide solution (3 ml) was added. The mixture was slowly warmed to room temperature and an additional 25% sodium hydroxide solution (3 ml) was added. The mixture was diluted with ethyl acetate and washed with water and brine. The organic phase was separated, dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated in vacuo. The residue was flash chromatographed over silica gel (eluted with ethyl acetate/hexane/1:3). The appropriate fractions were collected and evaporated to afford 7.14 g (81%) of product.

reactant | ethyl trans-3-[3-(1-dodecynyl)phenyl]-2-propenoate | 10.0 g | C(#CCCCCCCCCCC)C=1C=C(C=CC1)/C=C/C(=O)OCC | C23H32O2
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | diisobutylaluminum hydride | 1.5M, 49 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | sodium hydroxide | 3 ml | [OH-].[Na+]
reactant | sodium hydroxide | 3 ml | [OH-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | trans-3-[3-(1-Dodecynyl)phenyl]propen-1-ol | 7.14 g, 81% | C(#CCCCCCCCCCC)C=1C=C(C=CC1)C/C=C/O | C21H30O
